US06207675B1
A suspension of 10.14 g of 2,7,7-trichloro-8-oxo-3-pyridin-3-yl-5,6,7,8-tetrahydroindolizine-1-carbonitrile and 300 cm3 of acetic acid in 1000 cm3 of ethanol is stirred under argon, and 3.06 g of 10% palladium on carbon in 50 cm3 of ethanol are added. The reaction mixture is bubbled with hydrogen for 2 hours at room temperature, and then filtered on No. 3 sintered glass covered with Celite. The cake is washed with twice 50 cm3 of ethanol and the filtrate is then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature close to 55° C. An oily residue is taken up in 150 cm3 of water and the pH is brought to 8-9 by addition of sodium hydrogen carbonate. 7.08 g of 2-chloro-8-oxo-3-pyridin-3-yl-5,6,7,8-tetrahydroindolizine-1-carbonitrile are obtained in the form of a white solid melting at a temperature greater than 260° C.

reactant | 2,7,7-trichloro-8-oxo-3-pyridin-3-yl-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 10.14 g | ClC=1C(=C2C(C(CCN2C1C=1C=NC=CC1)(Cl)Cl)=O)C#N | C14H8Cl3N3O
reactant | acetic acid | 300 cm3 | C(C)(=O)O | C2H4O2
solvent | ethanol | 1000 cm3 | C(C)O | C2H6O
catalyst | palladium on carbon | 3.06 g | [Pd] | Pd
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | 2-chloro-8-oxo-3-pyridin-3-yl-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 7.08 g | ClC=1C(=C2C(CCCN2C1C=1C=NC=CC1)=O)C#N | C14H10ClN3O
